US05324747
A mixture of 12 g (0.024 mol) of 3-hydroxy-5-(octadecyloxy)benzoic acid phenylmethyl ester, 6 ml (0.038 ml) of 3-phenoxypropyl bromide, 3.6 g (0.024 mol) of sodium iodide and 10 g (0.072 mol) of potassium carbonate in 40 ml of acetone and 80 ml of DMF was stirred at reflux for 46 hours. The reaction mixture was filtered and the filtrate was concentrated to dryness at reduced pressure. Water was added to the residue and the product was extracted with ethyl acetate. The dried extract was concentrated at reduced pressure to an oil which was purified by HPLC using 5% ethyl acetate-hexane. The pure fractions were combined, triturated with hexane and filtered to give 14.6 g (96% yield, mp 46°-47°) of 3-(octadecyloxy)-5-(3-phenoxypropoxy)benzoic acid phenylmethyl ester. The structure was confirmed by nmr and mass spectra.

reactant | 3-hydroxy-5-(octadecyloxy)benzoic acid phenylmethyl ester | 0.024 mol, 12 g | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)O)=O | C32H48O4
reactant | 3-phenoxypropyl bromide | 6 ml | O(C1=CC=CC=C1)CCCBr | C9H11BrO
reactant | sodium iodide | 0.024 mol, 3.6 g | [I-].[Na+]
reactant | potassium carbonate | 0.072 mol, 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 40 ml | CC(=O)C | C3H6O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | 3-(octadecyloxy)-5-(3-phenoxypropoxy)benzoic acid phenylmethyl ester | 14.6 g, 96% yield | C1(=CC=CC=C1)COC(C1=CC(=CC(=C1)OCCCOC1=CC=CC=C1)OCCCCCCCCCCCCCCCCCC)=O | C41H58O5
